US08426447B2
100 ml RBF was charged with (R)-2′-bromo-7′-iodo-5H-spiro[oxazole-4,9′-xanthen]-2-amine (1.5 g, 3.28 mmol), pyrimidin-5-ylboronic acid (0.488 g, 3.94 mmol), tetrakis(triphenylphosphine)palladium(0) (0.284 g, 0.246 mmol). DME (23.44 mL) followed by sodium carbonate (4.92 mL, 9.85 mmol) (2M solution) were added and the mixture was heated at 65° C. for 24 h. The mixture was diluted with water and EtOAc, filtered and organic layer was separated and concentrated. The crude material was purified by flash chromatography on 40 g RediSep column using 5-70% gradient of DCM/MeOH/NH4OH in DCM to give (S)-2′-bromo-7′-(pyrimidin-5-yl)-5H-spiro[oxazole-4,9′-xanthen]-2-amine.

reactant | (R)-2′-bromo-7′-iodo-5H-spiro[oxazole-4,9′-xanthen]-2-amine | 3.28 mmol, 1.5 g | BrC1=CC=2[C@]3(C4=CC(=CC=C4OC2C=C1)I)N=C(OC3)N | C15H10BrIN2O2
reactant | pyrimidin-5-ylboronic acid | 3.94 mmol, 0.488 g | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | DME | 23.44 mL | COCCOC | C4H10O2
reactant | sodium carbonate | 9.85 mmol, 2M, 4.92 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.246 mmol, 0.284 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-2′-bromo-7′-(pyrimidin-5-yl)-5H-spiro[oxazole-4,9′-xanthen]-2-amine | BrC1=CC=2[C@]3(C4=CC(=CC=C4OC2C=C1)C=1C=NC=NC1)N=C(OC3)N | C19H13BrN4O2
